US05391553
7-Dodecyl-9-hydroxy-1,2,3,4-tetrahydroacridine
4-Dodecylaniline (15.7 g) was dissolved in 100 mL of benzene and then 2-ethoxycarbonylcyclohexane (10.2 g) was added, followed by 0.20 g of p-toluenesulfonic acid. The reaction mixture was stirred for three days and then refluxed for 2 hours with the separation of H2O. The benzene was evaporated from this mixture, which was then dissolved in 100 mL of phenyl ether and refluxed for 45 minutes. At the end of this time the reaction mixture was allowed to cool and the precipitated product was filtered off. This crude product was purified by flash chromatography (20% ethyl acetate/CH2Cl2) and then recrystallized from 1,2-dichloroethane/methanol to give 1.31 g, mp 225°-226°.

reactant | 4-Dodecylaniline | 15.7 g | C(CCCCCCCCCCC)C1=CC=C(N)C=C1 | C18H31N
reactant | 2-ethoxycarbonylcyclohexane | 10.2 g | C(C)OC(=O)C1CCCCC1 | C9H16O2
reactant | p-toluenesulfonic acid | 0.20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | H2O | O | H2O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 7-Dodecyl-9-hydroxy-1,2,3,4-tetrahydroacridine | C(CCCCCCCCCCC)C1=CC=C2N=C3CCCCC3=C(C2=C1)O | C25H37NO
